US08076486B2
3-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-propane-1,2-diol
(4-{5-[(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-amino]-[1,3,4]oxadiazol-2-yl}-pyridin-3-yl)-(2-fluoro-4-iodo-phenyl)-amine (100 mg, 0.2 mmol) was dissolved in dichloromethane (5 mL) and TFA (3 mL) was added. The reaction mixture was stirred at RT for 4 hrs. The solvent was evaporated, and the residue was dissolved in Ethyl acetate, and washed with 1N aqueous NaOH. After solvent evaporation a residue was collected and dissolved in methanol. The product crystallized out the methanolic solution and filtered (63 mg). LC/MS (Method A) [6.61 min; 472(M+1)].

reactant | (4-{5-[(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-amino]-[1,3,4]oxadiazol-2-yl}-pyridin-3-yl)-(2-fluoro-4-iodo-phenyl)-amine | 0.2 mmol, 100 mg | CC1(OCC(O1)CNC1=NN=C(O1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)C | C19H19FIN5O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-propane-1,2-diol | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NN=C(O1)NCC(CO)O | C16H15FIN5O3
